US07064124B2
N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoyl]-4-(1H-pyrazol-3-yl)aniline
4-(1H-Pyrazol-3-yl)aniline (0.159 g, 1.003 mmol), triethylamine (0.101 g, 1.003 mmol) and 2-chloro-1,3-dimethylimidazolinium chloride (0.170 g, 1.003 mmol) were added to a methylene chloride solution (100 ml) of 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid (0.250 g, 0.668 mmol) and the resulting solution was stirred at room temperature for 3 hours. The reaction solution was poured into ice water and then extracted with methylene chloride. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by preparative thin-layer chromatography (chloroform:methanol=10:1) to obtain the titled compound (0.180 g, 0.350 mmol, 52%).

reactant | 4-(1H-Pyrazol-3-yl)aniline | 1.003 mmol, 0.159 g | N1N=C(C=C1)C1=CC=C(N)C=C1 | C9H9N3
reactant | triethylamine | 1.003 mmol, 0.101 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 1.003 mmol, 0.170 g | [Cl-].ClC1[NH+](CCN1C)C
reactant | 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid | 0.668 mmol, 0.250 g | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)O)C1)OC(C)=O)C)=O | C19H18O8
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoyl]-4-(1H-pyrazol-3-yl)aniline | 0.350 mmol, 0.180 g, 52% | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)NC2=CC=C(C=C2)C2=NNC=C2)C1)OC(C)=O)C)=O | C28H25N3O7
